US09340538B2
Step A: 4-(trifluoromethyl)thiazole-2-carbonitrile
4-(trifluoromethyl)thiazol-2-amine (2.52 g, 15 mmol) was reacted with CuCN (2.95 g, 33 mmol) according to the procedure as described in Example 61, Step A to give the title compound as brown oil (0.90 g, 34%). The compound was characterized by the following spectroscopic data:

reactant | 4-(trifluoromethyl)thiazol-2-amine | 15 mmol, 2.52 g | FC(C=1N=C(SC1)N)(F)F | C4H3F3N2S
reactant | CuCN | 33 mmol, 2.95 g | C(#N)[Cu]
product | 4-(trifluoromethyl)thiazole-2-carbonitrile | 0.90 g, 34% | FC(C=1N=C(SC1)C#N)(F)F | C5HF3N2S
